US07049310B2
Preparation of 2-methyl-3-(methylaminomethyl)indole
To a solution of 2-methylindole-3-carboxaldehyde (10.00 g, 62.84 mmole) in MeOH (100 mL) was added 2 M CH3NH2 in MeOH (200 mL). After stirring for 3 hours at RT, the reaction solution was concentrated to a yellow oil which solidified under vacuum. This solid was dissolved in ethanol (350 mL) and NaBH4 (2.38 g, 62.8 mmole) was added. The reaction was stirred at RT for 6 hours, then was concentrated under vacuum. The remaining residue was diluted with saturated aqueous Na2CO3 (50 mL) and extracted with EtOAc (2×200 mL). The organic phase was separated, washed with brine, and dried over Na2SO4. Flash chromatography on silica gel (9:1 CHCl3/MeOH containing 5% NH4OH) and drying under high vacuum gave the title compound (6.88 g, 63%) as a faintly yellow viscous solid: MS (ES) m/e 175 (M+H)+.

reactant | 2-methylindole-3-carboxaldehyde | 62.84 mmole, 10.00 g | CC=1NC2=CC=CC=C2C1C=O | C10H9NO
reactant | CH3NH2 | 2 M | CN | CH5N
reactant | NaBH4 | 62.8 mmole, 2.38 g | [BH4-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
solvent | MeOH | 200 mL | CO | CH4O
product | 2-methyl-3-(methylaminomethyl)indole | 6.88 g, 63% | CC=1NC2=CC=CC=C2C1CNC | C11H14N2
